US04452985
3-[2-[(Aminoiminomethyl)Amino]-4-Thiazolyl]Benzoic Acid Hydrazide, Hydrochloride
To 10 ml. of 95% hydrazine is added 3-[2-[(aminoiminomethyl)amino]-4-thiazolyl]benzoic acid methyl ester (1.1 g., 0.004 mole). This is stirred for 1 hour at room temperature. The product precipitates out and is filtered off and rinsed with ethanol. The filtrate is reduced to dryness and ethanol is added to the residue, and the insoluble material is filtered off and combined with previously filtered solid to give a crude yield of about 1 g. of the carboxhydrazide. This crude solid is added to 40 ml. ethanol and to this is added 10 ml. of ethanolic HCl solution and the mixture is heated briefly at reflux temperature. The suspension that forms is filtered off and recrystallized from 90% aqueous ethanol to give 0.65 g. of the desired product, m.p. 275° C. (dec.).

reactant | hydrazine | NN | H4N2
reactant | 3-[2-[(aminoiminomethyl)amino]-4-thiazolyl]benzoic acid methyl ester | 0.004 mole, 1.1 g | COC(C1=CC(=CC=C1)C=1N=C(SC1)NC=NN)=O | C12H12N4O2S
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 3-[2-[(Aminoiminomethyl)Amino]-4-Thiazolyl]Benzoic Acid Hydrazide, Hydrochloride | Cl.NN=CNC=1SC=C(N1)C=1C=C(C(=O)NN)C=CC1 | InChI=1S/C11H12N6OS.ClH/c12-15-6-14-11-16-9(5-19-11)7-2-1-3-8(4-7)10(18)17-13;/h1-6H,12-13H2,(H,17,18)(H,14,15,16);1H
